US04612376
To a solution of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-(4-hydroxyphenylimino)-2(1H)-pyrimidinone (1.5 g) in acetone (30 ml) was added potassium carbonate (0.56 g) and epichlorohydrin (0.32 ml). After the mixture was refluxed for 7 hours, an additional epichlorohydrin (1.6 ml) was added thereto, and further the mixture was refluxed for 38 hours. The resulting mixture was evaporated and chromatographed on silica-gel eluting with chloroform to give crude 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-[4-(2,3-epoxypropoxy)phenylimino]-2(1H)-pyrimidinone, which was recrystallized from diethyl ether.

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-(4-hydroxyphenylimino)-2(1H)-pyrimidinone | 1.5 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=NC1=CC=C(C=C1)O | C20H21N3O4
reactant | potassium carbonate | 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 0.32 ml | C(Cl)C1CO1 | C3H5ClO
reactant | epichlorohydrin | 1.6 ml | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-[4-(2,3-epoxypropoxy)phenylimino]-2(1H)-pyrimidinone | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=NC1=CC=C(C=C1)OCC1CO1 | C23H25N3O5
